US06211199B1
Combine (1H-benzimidazol-2-yl)-(1-ethoxycarbonyl-piperidin-4-yl)amine (1.5 g, 5.2 mmol) in tetrahydrofuran (45 mL) and dimethylformamide (5 mL). Cool in an ice-bath. Add sodium hydride (0.25 g, 60% n in oil, 6.24 mmol). After 90 minutes, add 2-(chloromethyl)furan (0.90 g, 7.8 mmol). Warm to ambient temperature. After 60 hours, quench by the addition of ice and then a saturated aqueous ammonium chloride solution. Evaporate to remove most of the tetrahydrofuran, dilute with ethyl acetate, and extract with a saturated aqueous sodium bicarbonate solution, water, and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine: Rf=0.29 (silica gel, ethyl acetate).

reactant | (1H-benzimidazol-2-yl)-(1-ethoxycarbonyl-piperidin-4-yl)amine | 5.2 mmol, 1.5 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | sodium hydride | 6.24 mmol, 0.25 g | [H-].[Na+]
reactant | 2-(chloromethyl)furan | 7.8 mmol, 0.90 g | ClCC=1OC=CC1 | C5H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C20H24N4O3
